### PR TITLE
feat: inverse function theorem for manifolds (concrete version)

### PR DESCRIPTION
**Pull request by MSpill**
Proves the inverse function theorem for manifolds: given manifolds $M, N$ and a $C^n$ map $f : M \to N$ whose differential is a linear isomorphism at $p \in M$, then $f$ is a local diffeomorphism at $p$, provided that both $p$ and its image are interior points. The proof proceeds in 3 main steps:

1. Show that the extended chart at an interior point can be restricted to an open set on which it is a partial diffeomorphism, viewing the model vector space as a manifold modelled on itself trivially
2. Use the inverse function theorem (applied to $f$ written in coordinates) to obtain a partial diffeomorphism between model vector spaces
3. Compose with chart diffeomorphisms to obtain a partial diffeomorphism between the manifolds.

------

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 1]
```diff
@@ -130,6 +149,87 @@ protected theorem mdifferentiableAt (hn : n ≠ 0) {x : M} (hx : x ∈ Φ.source
...
+def diffeoExtChartAt (n : WithTop ℕ∞) [IsManifold I n M] {p : M} (hp : IsInteriorPoint I p) :
+    PartialDiffeomorph I 𝓘(𝕜, E) M E n where
+  toPartialEquiv :=
+    ((chartAt H p).trans (PartialDiffeomorph.auxModelPartialHomeo hp)).toPartialEquiv
+  open_source := ((chartAt H p).trans (PartialDiffeomorph.auxModelPartialHomeo hp)).open_source
+  open_target := ((chartAt H p).trans (PartialDiffeomorph.auxModelPartialHomeo hp)).open_target
+  contMDiffOn_toFun := by
+    set homeo := (chartAt H p).trans (PartialDiffeomorph.auxModelPartialHomeo hp)
+    -- this is just the identity in coordinates
+    have h₁: homeo.source ⊆ (chartAt H p).source := by simp[homeo]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean]: One global style comment for all your PR: please put a space between the tactic name and arguments, as in
```suggestion
    have h₁: homeo.source ⊆ (chartAt H p).source := by simp [homeo]
```
The same holds in many other places: please try to find these places and make the same change.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 2]
```diff
@@ -130,6 +149,87 @@ protected theorem mdifferentiableAt (hn : n ≠ 0) {x : M} (hx : x ∈ Φ.source
...
+    refine (contMDiffOn_iff_of_subset_source h₁ h₂).mpr ⟨homeo.continuousOn_invFun, ?_⟩
+    set f := (↑I ∘ ↑(chartAt H p)) ∘ ↑homeo.symm
+    suffices ContDiffOn 𝕜 n f homeo.target by simpa
+    have : ∀ e ∈ homeo.target, f e = e := by
+      intro e he
+      simp[f, homeo, PartialDiffeomorph.auxModelPartialHomeo] at he ⊢
+      simp[(chartAt H p).right_inv he.2, I.right_inv he.1.1]
+    exact contDiffOn_id.congr this
+
+lemma diffeoExtChartAt_eq_extChartAt [IsManifold I n M] {p : M} (hp : IsInteriorPoint I p) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean]: Another global comment: we try to name lemmas according to the names of their contained objects. In this case, the symbol is called `EqOn`, so the lemma name should contain `eqOn` (not just `eq`). I would name it `eqOn_diffeoExtChartAt_extChartAt` or similar.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 3]
```diff
@@ -424,3 +524,134 @@ lemma IsLocalDiffeomorph.mfderivToContinuousLinearEquiv_coe
...
+  {E : Type*} [NormedAddCommGroup E] [NormedSpace 𝕜 E] [CompleteSpace E]
+  {F : Type*} [NormedAddCommGroup F] [NormedSpace 𝕜 F] [CompleteSpace F]
+  {H : Type*} [TopologicalSpace H]
+  {G : Type*} [TopologicalSpace G]
+  {I : ModelWithCorners 𝕜 E H} {J : ModelWithCorners 𝕜 F G}
+  {M : Type*} [TopologicalSpace M] [ChartedSpace H M]
+  {N : Type*} [TopologicalSpace N] [ChartedSpace G N]
+  {n : WithTop ℕ∞} [IsManifold I n M] [IsManifold J n N]
+
+theorem localDiffeomorph_of_mfderiv_iso (hn : n ≠ 0) {f : M → N} (hf : ContMDiff I J n f) {p : M}
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean]: Similarly, this lemma name should mention `isLocalDiffeomorphAt` --- in fact, I would rather name it `IsLocalDiffeomorphAt.of_isInvertible_mfderiv` (and change the lemma statement slightly).

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 4]
```diff
@@ -424,3 +524,134 @@ lemma IsLocalDiffeomorph.mfderivToContinuousLinearEquiv_coe
...
+    (hp : IsInteriorPoint I p) (hfp : IsInteriorPoint J (f p))
+    (hf' : (mfderiv I J f p).ker = ⊥ ∧ (mfderiv I J f p).range = ⊤) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean]: I'm pretty sure that a slightly different statement, involving `IsInvertible`, is more useful. I will double-check this when looking at the high-level strategy (hopefully tomorrow).

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 5]
```diff
@@ -100,6 +106,7 @@ def Diffeomorph.toPartialDiffeomorph (h : Diffeomorph I J M N n) :
 -- Add the very basic API we need.
 namespace PartialDiffeomorph
 variable (Φ : PartialDiffeomorph I J M N n)
+variable (Ψ : PartialDiffeomorph J K N P n)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean]: This variable is only used once and it's explicit: I'd move it to the only location where it is used.

**Review by grunweg — COMMENTED** [review]
Thanks for filing your PR and welcome to mathlib! I didn't get to look at it in detail yet, and it's late over here --- but here are some very first comments to get you started. I focused only on style; these should be quick to fix (and are meant to teach you something in general). I'll do my best to take a detailed look tomorrow.

**Comment by grunweg** [comment]
You will also notice a red cross in the checks github performs: if you click on that cross and expand the step that's in red, you will hopefully see more details what's wrong. In this case, two definitions don't have a doc-string, and there are three instances where the `flexible` linter complains. (You should also see these locally as warnings.)

We don't have to focus on these right now, but need to do so before this PR is merged.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 6]
```diff
@@ -424,3 +524,134 @@ lemma IsLocalDiffeomorph.mfderivToContinuousLinearEquiv_coe
...
+      exact (OpenPartialHomeomorph.contDiffAt_symm homeo hy (hg' ▸ this.hasFDerivAt)
+        (homeo_contdiff.contDiffAt source_nhd)).contDiffWithinAt
+  }
+  -- compose with the charts to obtain our partial diffeomorphism M → N
+  set diffeo := PartialDiffeomorph.trans _ _ (PartialDiffeomorph.trans _ _ φ₁ coord_diffeo) ψ₁.symm
+  use diffeo
+  -- rote verification of remaining conditions, mostly just unwrapping definitions (todo: clean up)
+  constructor
+  · show p ∈ diffeo.source
+    simp[diffeo, PartialDiffeomorph.trans, toOpenPartialHomeomorph, coord_diffeo, homeo, U, V,
```
Comment (MSpill) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean]: This is where the flexible linter errors originate, I'm not sure what I can do to fix it besides inserting an absurdly long `simp only` statement. The resulting goal is also very long so a `suffices` statement would be just as bad. Does this indicate that I should find some cleaner way of proving this statement, or are there other options to fix this?

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean (hunk 5 above)
Comment (MSpill) [reply Mathlib/Geometry/Manifold/LocalDiffeomorph.lean]: It's also used in `trans_source` and would be used in any other `trans`-related lemmas that could be added. Should I make it an explicit argument to both `trans` and `trans_source` or just move the variable declaration to be right above `trans`?

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean (hunk 2 above)
Comment (MSpill) [reply Mathlib/Geometry/Manifold/LocalDiffeomorph.lean]: Attempted to address this across the PR (except for the main theorem statement, pending what its final hypotheses will look like)

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 7]
```diff
@@ -0,0 +1,235 @@
...
+  {E : Type*} [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+  {H : Type*} [TopologicalSpace H]
+  {I : ModelWithCorners 𝕜 E H}
+  {M : Type*} [TopologicalSpace M] [ChartedSpace H M]
+  (n : WithTop ℕ∞)
+
+/-- If `p` is an interior point of `M`, then `extChartAt I p` can be restricted to an open set
+on which it becomes a `PartialDiffeomorph` (viewing `E` as a manifold modeled on itself trivially)
+-/
+def diffeoExtChartAt [IsManifold I n M] {p : M} (hp : I.IsInteriorPoint p) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: Right now, your approach is "convert the model with corners to an OpenPartialHomeomorph (by restricting appropriately), then compose with the preferred chart". A different way to say this is "take the preferred extended chart (`extChartAt`) at p, and restrict appropriately. One advantage is that you can use more familiar API, and on the whole, your proofs should simplify. For instance, you can delete `ModelWithCorners.toOpenPartialHomeomorph`.
Another reason is that mathlib already knows about `extChartAt ` and its inverse being C^n, so smoothness is almost automatic then. Overall, you arrive with a definition looking something like the following:
```
def diffeoExtChartAt [IsManifold I n M] {p : M} (hp : I.IsInteriorPoint p) :
    PartialDiffeomorph I 𝓘(𝕜, E) M E n where
  toPartialEquiv :=
    letI s : Set E := Classical.choose hp
    (extChartAt I p).restr ((chartAt H p).source ∩ (extChartAt I p) ⁻¹' s)
  open_source := by
    rw [PartialEquiv.restr_source, extChartAt_source, ← inter_assoc, inter_self]
    exact isOpen_extChartAt_preimage _ (Classical.choose_spec hp).1.1
  open_target := by
    rw [PartialEquiv.restr_target]
    sorry
  contMDiffOn_toFun := contMDiffOn_extChartAt.mono (by simp)
  contMDiffOn_invFun := by
    apply (contMDiffOn_extChartAt_symm p).mono
    intro x' hx'
    simp_all
```
I'll leave the last sorry as an exercise to you.

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 8]
```diff
@@ -0,0 +1,235 @@
...
+    EqOn (diffeoExtChartAt n hp).symm (extChartAt I p).symm (diffeoExtChartAt n hp).target :=
+  graphOn_inj.mp rfl
+
+lemma mem_diffeoExtChartAt_source [IsManifold I n M] {p : M} (hp : I.IsInteriorPoint p) :
+    p ∈ (diffeoExtChartAt n hp).source := ⟨mem_chart_source H p, (Classical.choose_spec hp).2⟩
+
+lemma diffeoExtChartAt_source_subset [IsManifold I n M] {p : M} (hp : I.IsInteriorPoint p) :
+    (diffeoExtChartAt n hp).source ⊆ (extChartAt I p).source  := by simp [diffeoExtChartAt]
+
+lemma diffeoExtChartAt_target_subset [IsManifold I n M] {p : M} (hp : I.IsInteriorPoint p) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: Such a kind of proof should be ameanable to automation. There is a small wrinkle (in that you'll need an API lemma for "the target of my new definition is this and that", but after that it's relatively straightforward. Here is how you can do this for the target.
```
lemma diffeoExtChartAt_target [IsManifold I n M] {p : M} (hp : I.IsInteriorPoint p) :
    (diffeoExtChartAt n hp).target =
      ((extChartAt I p).restr ((chartAt H p).source ∩
        (extChartAt I p) ⁻¹' (Classical.choose hp))).target := by
  rfl

lemma diffeoExtChartAt_target_subset [IsManifold I n M] {p : M} (hp : I.IsInteriorPoint p) :
    (diffeoExtChartAt n hp).target ⊆ (extChartAt I p).target  := by
  rw [diffeoExtChartAt_target]
  intro x hx
  simp_all
```

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean (hunk 7 above)
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: There may be a better name than the current one. I haven't deeply thought about that yet.

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 9]
```diff
@@ -0,0 +1,235 @@
...
+  {M₁ : Type*} [TopologicalSpace M₁] [ChartedSpace H₁ M₁]
+  {M₂ : Type*} [TopologicalSpace M₂] [ChartedSpace H₂ M₂]
+  {n : WithTop ℕ∞} [IsManifold I₁ n M₁] [IsManifold I₂ n M₂]
+
+/-- The inverse function theorem for manifolds. If `f` is `ContMDiff` on a neighborhood of an
+interior point `p` and has bijective differential at `p`, then `f` is a local diffeomorphism at `p`.
+-/
+theorem isLocalDiffeomorphAt_of_bijective_mfderiv {p : M₁} (hp : I₁.IsInteriorPoint p) {A : Set M₁}
+    (hA : IsOpen A) (hpA : p ∈ A) {f : M₁ → M₂} (hf : ContMDiffOn I₁ I₂ n f A)
+    (hf' : (mfderiv I₁ I₂ f p).ker = ⊥ ∧ (mfderiv I₁ I₂ f p).range = ⊤) (hn : n ≠ 0) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: I am now convinced: this hypothesis should be stated as `(hf' : ContinuousLinearMap.IsInvertible (mfderiv% f p))`. Can you change this, please?

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 10]
```diff
@@ -0,0 +1,235 @@
...
+    IsLocalDiffeomorphAt I₁ I₂ n f p := by
+  -- show that `f p` is an interior point of `M₂`
+  have mDiffAt_f_p : MDiffAt f p := (hf.contMDiffAt (hA.mem_nhds hpA)).mdifferentiableAt hn
+  have hfp : I₂.IsInteriorPoint (f p) :=
+    mDiffAt_f_p.isInteriorPoint_of_surjective_mfderiv (LinearMap.range_eq_top.mp hf'.2) hp
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: Then you can use `hf'.surjective` here.

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 11]
```diff
@@ -0,0 +1,235 @@
...
+    rw [eqOn_diffeoExtChartAt_extChartAt n hp hm₁,
+      φ₀.left_inv (diffeoExtChartAt_source_subset n hp hm₁)]
+    exact ⟨hm₂, diffeoExtChartAt_source_subset n hfp hm₃⟩
+  have U_open : IsOpen U := by
+    refine φ₁.toOpenPartialHomeomorph.isOpen_image_of_subset_source ?_ inter_subset_left
+    exact φ₁.open_source.inter (hf.continuousOn.isOpen_inter_preimage hA ψ₁.open_source)
+  have φ₀p_mem_U : φ₀ p ∈ U := mem_image_of_mem _ ⟨mem_diffeoExtChartAt_source n hp, hpA,
+    mem_diffeoExtChartAt_source n hfp⟩
+  -- use `hf'` to show that the derivative of `g` at `φ₀ p` is a continuous linear equivalence
+  have ⟨g', hg'⟩ : ∃ g' : E₁ ≃L[𝕜] E₂, HasFDerivAt g (g' : E₁ →L[𝕜] E₂) (φ₀ p) := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: I would phrase this differently: you know what `g'` is going to be (the fderiv of g) --- so what you really need to prove is that the fderiv of g is invertible. That is almost the hypothesis `hf'`. I'd extract a separate lemma
```
lemma isInvertible_fderivWithin_writtenInExtChartAt {f : M₁ → M₂} {p : M₁}
    (hf : ContinuousLinearMap.IsInvertible (mfderiv% f p)) :
    IsInvertible (fderivWithin 𝕜 (writtenInExtChartAt I₁ I₂ p f) (range I₁)
      (extChartAt I₁ p p)) := by
  convert! hf
  rw [mfderiv, ite_eq_left (mdifferentiableAt_of_mfderiv_injective hf.injective)]
  rfl
```
then your proof can become
```
  obtain ⟨g', hg'⟩ := isInvertible_fderivWithin_writtenInExtChartAt hf'
  have hg' : HasFDerivAt g g'.toContinuousLinearMap (extChartAt I₁ p p) :=
    hg' ▸ mDiffAt_f_p.differentiableWithinAt_writtenInExtChartAt.hasFDerivWithinAt.hasFDerivAt
      (range_mem_nhds_isInteriorPoint hp)
```

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 12]
```diff
@@ -0,0 +1,235 @@
...
+theorem isLocalDiffeomorphAt_of_bijective_mfderiv {p : M₁} (hp : I₁.IsInteriorPoint p) {A : Set M₁}
+    (hA : IsOpen A) (hpA : p ∈ A) {f : M₁ → M₂} (hf : ContMDiffOn I₁ I₂ n f A)
+    (hf' : (mfderiv I₁ I₂ f p).ker = ⊥ ∧ (mfderiv I₁ I₂ f p).range = ⊤) (hn : n ≠ 0) :
+    IsLocalDiffeomorphAt I₁ I₂ n f p := by
+  -- show that `f p` is an interior point of `M₂`
+  have mDiffAt_f_p : MDiffAt f p := (hf.contMDiffAt (hA.mem_nhds hpA)).mdifferentiableAt hn
+  have hfp : I₂.IsInteriorPoint (f p) :=
+    mDiffAt_f_p.isInteriorPoint_of_surjective_mfderiv (LinearMap.range_eq_top.mp hf'.2) hp
+  -- let `g` be the coordinate representation of `f` and obtain coordinate charts
+  let g : E₁ → E₂ := writtenInExtChartAt I₁ I₂ p f
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean:196]: This may be subjective: I tend to inline such local definitions, unless they are used a lot. My instinct is to inline all these definitions, and find better abstractions so we don't have to mention all of these as often.

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 13]
```diff
@@ -0,0 +1,235 @@
...
+      (range_mem_nhds_isInteriorPoint hp)
+  /- obtain partial diffeomorphism in coordinates and compose with the charts to obtain a partial
+  diffeomorphism `M₁ → M₂` -/
+  let coord_diffeo := hg.toPartialDiffeomorph U_open φ₀p_mem_U  hg' hn
+  let diffeo := (φ₁.trans coord_diffeo).trans ψ₁.symm
+  use diffeo
+  constructor
+  · refine ⟨⟨mem_diffeoExtChartAt_source n hp,
+      (hg.toPartialDiffeomorph_mem_source U_open φ₀p_mem_U hg' hn)⟩, ?_⟩
+    change (ψ₁ ∘ f ∘ φ₀.symm) (φ₀ p) ∈ ψ₁.target
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean:227]: In particular, this `change` indicates that API lemmas are missing and/or automation be improved.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 14]
```diff
@@ -42,8 +42,6 @@ diffeomorphism at every `x ∈ s`, and a **local diffeomorphism** iff it is a lo
 
 ## TODO
 * an injective local diffeomorphism is a diffeomorphism to its image
-* if `f` is `C^n` at `x` and `mfderiv I J n f x` is a linear isomorphism,
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:45]: I think it's nice to still mention the result, as being proven in another file.

File: Mathlib/Geometry/Manifold/IsManifold/Basic.lean [hunk 15]
```diff
@@ -455,6 +455,25 @@ protected theorem locallyCompactSpace [LocallyCompactSpace E] (I : ModelWithCorn
   rintro x s ⟨-, hsc⟩
   exact (hsc.inter_right I.isClosed_range).image I.continuous_symm
 
+/-- If the target of a `ModelWithCorners` contains an open subset of the model vector space, it can
+be restricted an `OpenPartialHomeomorph` mapping onto that subset -/
+def toOpenPartialHomeomorph (I : ModelWithCorners 𝕜 E H) {s : Set E} (hs₁ : IsOpen s)
+    (hs₂ : s ⊆ I.target) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/Basic.lean]: I strongly suspect that you're making your life harder than necessary here by using `I.target`: using `range I` would be the simp normal form, allow you to use `simp`/`simp_all` instead and make downstream proofs a little nicer.

File: Mathlib/Geometry/Manifold/IsManifold/Basic.lean [hunk 16]
```diff
@@ -455,6 +455,25 @@ protected theorem locallyCompactSpace [LocallyCompactSpace E] (I : ModelWithCorn
...
+    OpenPartialHomeomorph H E where
+  toFun := I.toFun
+  invFun := I.invFun
+  source := I.toFun ⁻¹' s
+  target := s
+  map_source' := by simp
+  map_target' := fun x hx ↦
+    mem_preimage.mpr (mem_of_eq_of_mem (hx |> hs₂ |> I.target_subset_range |> I.right_inv) hx)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/Basic.lean]: Just as general hint: the use of `|>` is clever (I learned a new trick, thanks!) --- but I don't think it's good for readability. You could write `I.right_inv (I.target_subset_range (hs₂ hx))` instead, which would be much clearer in my opinion.

**Review by grunweg — COMMENTED** [review]
I finally found a moment to take a close look at your PR. Thanks for your eternal patience! The overall strategy looks reasonable; on the low level, your code can be optimised a bit. (I have commented on the most important bits below.)

It would be great to get this into mathlib - how would you prefer to proceed. Would you like to follow the usual review process (and I'll be quicker to answer the next time), or should I make my adaptations myself and then push this to completion? I totally understand if you have turned to other projects now, but it would be a real shame to see this contribution "strand" on the way to mathlib.

**Comment by grunweg** [comment]
Is item (1) in the PR description still correct? I don't find such lemmas in this PR any more.

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: I think that `extChartAtPartialDiffeomorph` is a reasonable starting point. Can you rename accordingly (or propose a different name), please?

File: Mathlib/Geometry/Manifold/IsManifold/Basic.lean (hunk 15 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/Basic.lean]: (This is kind of moot as this definition can be removed if you follow the above comments. I'm just telling you this as general advice.)

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean (hunk 8 above)
Comment (MSpill) [reply Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: Turns out this could be proven with just a `subset_inter_left` with the new definition, but let me know if you still think I should add such lemmas.

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean (hunk 7 above)
Comment (MSpill) [reply Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: I went with `extChartAtPartialDiffeomorph` for now, I can't think of a better one.

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 17]
```diff
@@ -0,0 +1,229 @@
...
+  have ⟨g', hg'⟩ : ∃ g' : E₁ ≃L[𝕜] E₂, HasFDerivAt g (g' : E₁ →L[𝕜] E₂) (φ₀ p) := by
+    rw [mfderiv, if_pos mDiffAt_f_p] at hf'
+    rcases hf' with ⟨g', g'_eq⟩
+    exact ⟨g', g'_eq ▸
+      mDiffAt_f_p.differentiableWithinAt_writtenInExtChartAt.hasFDerivWithinAt.hasFDerivAt
+      (range_mem_nhds_isInteriorPoint hp)⟩
+  /- obtain partial diffeomorphism in coordinates and compose with the charts to obtain a partial
+  diffeomorphism `M₁ → M₂` -/
+  let coord_diffeo := hg.toPartialDiffeomorph U_open φ₀p_mem_U  hg' hn
+  let diffeo := (φ₁.trans coord_diffeo).trans ψ₁.symm
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: I'd inline the variable `diffeo`, and perhaps `coord_diffeo` also. Both are only used once.

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean (hunk 11 above)
Comment (MSpill) [reply Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: Done. I feel like the lemma might belong in a different file than this, do you have any thoughts? Same with `extChartAtPartialDiffeomorph`

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean (hunk 12 above)
Comment (MSpill) [reply Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean:196]: All the charts (the four lines below this) are referenced fairly often. `g` is only referenced twice so could be inlined, but I feel like it helps to give it a name so that everything referencing it below can be concise (i.e. `g'` and `hg'` and the comments mentioning `g`), at least in my opinion

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean (hunk 13 above)
Comment (MSpill) [reply Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean:227]: I played around with this for a while and wasn't really able to make it shorter without using a `change`. I don't know very much about the internals of `simp` and automation in general right now, so I could use some guidance on what approach you think might help with this section.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 18]
```diff
@@ -40,10 +40,12 @@ diffeomorphism at every `x ∈ s`, and a **local diffeomorphism** iff it is a lo
 * `LocalDiffeomorph.mfderivToContinuousLinearEquiv`: if `f` is a local diffeomorphism,
   each differential `mfderiv I J n f x` is a continuous linear equivalence.
 
+* `IsLocalDiffeomorphAt_of_isInvertible_mderiv` (proved in `InverseFunctionTheorem.lean`): if `f` is
+  `ContMDiffOn` an open set `U` and has bijective differential at an interior point `p ∈ U`, then
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean]:
```suggestion
  `C^n` on an open set `U` and has bijective differential at an interior point `p ∈ U`, then
```

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean (hunk 11 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: Thanks. The new lemma should definitely move to a new file. Does `#find_home isInvertible_fderivWithin_writtenInExtChartAt` help?

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 19]
```diff
@@ -0,0 +1,234 @@
...
+  {I : ModelWithCorners 𝕜 E H}
+  {M : Type*} [TopologicalSpace M] [ChartedSpace H M]
+  (n : WithTop ℕ∞)
+
+/-- If `p` is an interior point of `M`, then `extChartAt I p` can be restricted to an open set
+on which it becomes a `PartialDiffeomorph` (viewing `E` as a manifold modeled on itself trivially)
+-/
+def extChartAtPartialDiffeomorph [IsManifold I n M] {p : M} (hp : I.IsInteriorPoint p) :
+    PartialDiffeomorph I 𝓘(𝕜, E) M E n where
+  toPartialEquiv := (extChartAt I p).restr ((extChartAt I p) ⁻¹' (Classical.choose hp))
```
Comment (pepamontero) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: Hi! A suggestion on `extChartAtPartialDiffeomorph`: I think `toPartialEquiv` can just be

```suggestion
  toPartialEquiv := (extChartAt I p).restr ((extChartAt I p) ⁻¹' interior (range I))
```

which gets rid of `Classical.choose` throughout the section. Any open `t ⊆ range I` is anyway contained in `interior (range I)`, so this is the largest set you can choose. Also, this construction then doesn't need `hp` anymore (you would still need it for `mem_extChartAtPartialDiffeomorph_source` I think).

Is there a reason to prefer the `choose` version that I'm missing? Otherwise, I have checked that the proof still works with this change, so if you'd like to see my specific changes lmk!

Comment (grunweg) [reply Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: Good point - I agree that just taking the interior is fine. (It may not matter much since this is an auxiliary construction, but there's no reason to making your life more complicated :-))

Comment (grunweg) [reply Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean]: A more interesting question is "what's the correct proof for manifolds with boundary" --- but that will probably be different enough that this won't directly affect this PR.

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean (hunk 13 above)
Comment (pepamontero) [reply Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean:227]: I have been looking into this. For the first change, I have found some improvement I think.

The reason the `change` is needed is that `PartialDiffeomorph` has no coercion simp lemmas, so `simp` cannot see through `⇑Φ`. So you need such lemmas.

On  `InverseFunctionTheorem.lean` you may add these two simp lemmas:

```
@[simp] lemma coe_extChartAtPartialDiffeomorph [IsManifold I n M] (p : M) :
    ⇑(extChartAtPartialDiffeomorph I n p) = extChartAt I p := rfl
```

(below def `extChartAtPartialDiffeomorph` maybe) and

```
@[simp] lemma coe_toPartialDiffeomorph : ⇑(hf.toPartialDiffeomorph hU hpU hf' hn) = f := rfl
```

(below `toPartialDiffeomorph`)

You would also need this lemma in `LocalDiffeomorph.lean`:

```
@[simp] theorem coe_toOpenPartialHomeomorph :
    ⇑Φ.toOpenPartialHomeomorph = ⇑Φ := rfl
```

maybe below `protected def symm` (should this also be `mfld_simps`?). In general `LocalDiffeomorph` is missing a lot of usual API as @grunweg mentions in the very file. Maybe it would be useful to add more? In any case I haven't found more than this is needed here.

This makes it so that instead of 

```
change (ψ₁ ∘ f ∘ φ₀.symm) (φ₀ p) ∈ ψ₁.target
simp [φ₀.left_inv (mem_extChartAt_source p),
      ψ₁.map_source (mem_extChartAtPartialDiffeomorph_source hfp _)]
```

you may do only

```
simpa [φ₁, ψ₁, g] using mem_extChartAtPartialDiffeomorph_target I₂ n hfp
```

Is this better?

I will write another comment for the second one because I'm still thinking about it.

Comment (pepamontero) [reply Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean:227]: The idea I had for the second one is to prove the following two lemmas about `ExtChartAt` (naming is provisional) :

```
theorem writtenInExtChartAt_extChartAt_apply {x y : M} {f : M → M'}
    (hy : y ∈ (extChartAt I x).source) :
    writtenInExtChartAt I I' x f (extChartAt I x y) = extChartAt I' (f x) (f y) := by
  simp only [writtenInExtChartAt, comp_apply, (extChartAt I x).left_inv hy]

theorem extChartAt_symm_writtenInExtChartAt_extChartAt {x y : M} {f : M → M'}
    (hy : y ∈ (extChartAt I x).source) (hfy : f y ∈ (extChartAt I' (f x)).source) :
    (extChartAt I' (f x)).symm (writtenInExtChartAt I I' x f (extChartAt I x y)) = f y := by
  rw [writtenInExtChartAt_extChartAt_apply hy, (extChartAt I' (f x)).left_inv hfy]
```

The first one is useful on its own as I've seen the same reasoning in other parts of Mathlib, so using it makes some proofs nicer. Then the second one is the one that could be used for this proof. The second bullet becomes:

```
  · rintro m ⟨⟨hm₁, _, hm₂, _⟩, _⟩
    have hm := extChartAtPartialDiffeomorph_source_subset I₁ n p hm₁
    have hfm := extChartAtPartialDiffeomorph_source_subset I₂ n (f p)
      (φ₁.injOn.mem_of_mem_image inter_subset_left hm₁ hm₂).2.2
    exact (extChartAt_symm_writtenInExtChartAt_extChartAt hm hfm).symm
```

(or inlining hm and hfm but that seems a bit wordy). What do you think?

Comment (grunweg) [reply Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean:227]: Thanks, @pepamontero, for the comments! I agree with both of them (and also think `coe_toOpenPartialHomeomorph` should be tagged `mfld_simps`).
(I haven't made up my mind about some details about the helper lemmas, such as their best names. I'll do that once you have adapted the code.)

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 20]
```diff
@@ -0,0 +1,236 @@
...
+
+variable {𝕜 : Type*} [NontriviallyNormedField 𝕜]
+  {E : Type*} [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+  {H : Type*} [TopologicalSpace H]
+  {M : Type*} [TopologicalSpace M] [ChartedSpace H M]
+
+/-- If `p` is an interior point of `M`, then `extChartAt I p` can be restricted to an open set
+on which it becomes a `PartialDiffeomorph` (viewing `E` as a manifold modeled on itself trivially)
+-/
+def extChartAtPartialDiffeomorph (I : ModelWithCorners 𝕜 E H) (p : M) (n : WithTop ℕ∞)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean:51]: Do you know about the `variable (I p n) in` syntax? This could shorten your code a bit here.

- I agree that making I, p and n explicit is probably the right call
- at the same time, writing `(I : ModelWithCorners 𝕜 E H) (p : M) (n : WithTop ℕ∞) [IsManifold I n M]` in every lemma is a bit wordy.
- Instead, you can write `{I : ModelWithCorners 𝕜 E H} {p : M} {n : WithTop ℕ∞} [IsManifold I n M]` at the top (as you had before), and then write `variable (I p n) in` right in front of this definition to make `I`, `p` and `n` explicit just in this definition. (You can do the same for the other lemmas below which need it.)

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 21]
```diff
@@ -0,0 +1,236 @@
...
+  graphOn_inj.mp rfl
+
+lemma mem_extChartAtPartialDiffeomorph_source {I : ModelWithCorners 𝕜 E H} {p : M}
+    (hp : I.IsInteriorPoint p) (n : WithTop ℕ∞) [IsManifold I n M] :
+    p ∈ (extChartAtPartialDiffeomorph I p n).source :=
+  ⟨mem_extChartAt_source p,
+  (mem_of_subset_of_mem (subset_sUnion_of_mem (Classical.choose_spec hp).1))
+    (Classical.choose_spec hp).2⟩
+
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean:85]:
```suggestion
```

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 22]
```diff
@@ -0,0 +1,236 @@
...
+lemma mem_extChartAtPartialDiffeomorph_target {I : ModelWithCorners 𝕜 E H} {p : M}
+    (hp : I.IsInteriorPoint p) (n : WithTop ℕ∞) [IsManifold I n M] :
+    (extChartAtPartialDiffeomorph I p n) p ∈ (extChartAtPartialDiffeomorph I p n).target :=
+  (extChartAtPartialDiffeomorph I p n).map_source' (mem_extChartAtPartialDiffeomorph_source hp n)
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean:90]:
```suggestion
```

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 23]
```diff
@@ -0,0 +1,236 @@
...
+
+lemma extChartAtPartialDiffeomorph_source_subset (I : ModelWithCorners 𝕜 E H) (p : M)
+    (n : WithTop ℕ∞) [IsManifold I n M] :
+    (extChartAtPartialDiffeomorph I p n).source ⊆ (extChartAt I p).source  := by
+  simp [extChartAtPartialDiffeomorph]
+
+lemma extChartAtPartialDiffeomorph_target_subset (I : ModelWithCorners 𝕜 E H) (p : M)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean:97]: This is an auxiliary lemma about a private definition... so I'm fine either way, with keeping or removing it.

File: Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean [hunk 24]
```diff
@@ -0,0 +1,236 @@
...
+  {E₂ : Type*} [NormedAddCommGroup E₂] [NormedSpace 𝕜 E₂]
+  {H₁ : Type*} [TopologicalSpace H₁]
+  {H₂ : Type*} [TopologicalSpace H₂]
+  {I₁ : ModelWithCorners 𝕜 E₁ H₁} {I₂ : ModelWithCorners 𝕜 E₂ H₂}
+  {M₁ : Type*} [TopologicalSpace M₁] [ChartedSpace H₁ M₁]
+  {M₂ : Type*} [TopologicalSpace M₂] [ChartedSpace H₂ M₂]
+  {n : WithTop ℕ∞} [IsManifold I₁ n M₁] [IsManifold I₂ n M₂]
+
+omit [CompleteSpace E₁] in
+lemma isInvertible_fderivWithin_writtenInExtChartAt {f : M₁ → M₂} {p : M₁}
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/InverseFunctionTheorem.lean:176]: Can you move this lemma to a better location? The `#find_home` command is your friend.
